US04152426
6 g (0.33 mol) of 1-methyl-2-isopropyl-4-methoxy-6-oxo-1,6-dihydro-pyrimidine (for preparation, see line 15 this page) were dissolved in 30 ml of acetone and converted to the hydrochloride by adding a solution of hydrochloric acid in ether. The salt was filtered off and after drying was warmed for 20 minutes to 150°-155° C. After the elimination of methyl chloride had ceased, the material was cooled, triturated with ether and filtered off. 3.9 g (92% of theory) of 1-methyl-2-isopropyl-4-hydroxy-6-oxo-1,6-dihydro-pyrimidine were thus obtained in the form of a colourless powder of melting point 159° C.

reactant | 1-methyl-2-isopropyl-4-methoxy-6-oxo-1,6-dihydro-pyrimidine | 0.33 mol, 6 g | CN1C(=NC(=CC1=O)OC)C(C)C | C9H14N2O2
reactant | hydrochloride | Cl | ClH
solvent | acetone | 30 ml | CC(=O)C | C3H6O
solvent | ether | CCOCC | C4H10O
product | 1-methyl-2-isopropyl-4-hydroxy-6-oxo-1,6-dihydro-pyrimidine | 3.9 g, 92% | CN1C(=NC(=CC1=O)O)C(C)C | C8H12N2O2
